US05116404
1-methyl-3-(2-fluoro-4-chlorophenyl)-6-(3-trifluoromethylphenyl)-2,4(1H,3H)-pyrimidinedione (compound No. 2.57 of the present invention)
1.00 g of 3-(2-fluoro-4-chlorophenyl)-6-(3-trifluoromethylphenyl)-2,4(1H,3H)-pyrimidinedione was dissolved in 10 ml of dimethylformamide, followed by addition of 0.48 g of anhydrous potassium carbonate and 0.48 g of methyl iodide, and stirring of the solution at room temperature for 4 hours. The resulting reaction solution was poured into water and the precipitated crystals were filtered out and dried to obtain 0.90 g of the objective compound.

reactant | 3-(2-fluoro-4-chlorophenyl)-6-(3-trifluoromethylphenyl)-2,4(1H,3H)-pyrimidinedione | 1.00 g | FC1=C(C=CC(=C1)Cl)N1C(NC(=CC1=O)C1=CC(=CC=C1)C(F)(F)F)=O | C17H9ClF4N2O2
reactant | potassium carbonate | 0.48 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.48 g | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-methyl-3-(2-fluoro-4-chlorophenyl)-6-(3-trifluoromethylphenyl)-2,4(1H,3H)-pyrimidinedione | 0.90 g | CN1C(N(C(C=C1C1=CC(=CC=C1)C(F)(F)F)=O)C1=C(C=C(C=C1)Cl)F)=O | C18H11ClF4N2O2
